US07618990B2
(4S)-3-[4-(4-Bromophenyl)-1,3-thiazol-2-yl]-4-(chloromethyl)-1,3-oxazolidin-2-one
(4R)-3-[4-(4-Bromophenyl)-1,3-thiazol-2-yl]-4-(hydroxymethyl)-1,3-oxazolidin-2-one (80 mg, 0.23 mmol), prepared in Example 71, was dissolved in 5 mL methylene chloride and cooled to −78° C. A solution of (diethylamino)sulfur trifluoride (0.034 mL, 0.25 mmol) in 5 mL of methylene chloride was added dropwise. The mixture was stirred at −78° C. for 1 h then warmed to 25° C. The reaction was quenched by pouring over ice and was then diluted with water and methylene chloride. The layers were separated and the aqueous layer was extracted with methylene chloride. The organics were combined and washed with water, brine, dried over anhydrous MgSO4, filtered and concentrated under reduced pressure. Flash chromatography (gradient 10% acetone/hexane to 20% acetone/hexane) afforded the title compound (12 mg, 14%) as a white solid. HRMS: calcd for C13H10BrClN2O2S+H+, 372.94076; found (ESI, [M+H]+), 372.9406. Analytical HPLC: retention time 10.6 min, 210-370 nm the Xterra® RP18 column, 3.5μ, 150×4.6 mm 40° C. 85/15-5/95 (Ammon. Form. Buff. pH=3.5/ACN+MeOH) for 10 min, hold 4 min, 1.2 mL/min 5 μL injection.

reactant | (4R)-3-[4-(4-Bromophenyl)-1,3-thiazol-2-yl]-4-(hydroxymethyl)-1,3-oxazolidin-2-one | 0.23 mmol, 80 mg | BrC1=CC=C(C=C1)C=1N=C(SC1)N1C(OC[C@H]1CO)=O | C13H11BrN2O3S
reactant | (diethylamino)sulfur trifluoride | 0.25 mmol, 0.034 mL | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | (4S)-3-[4-(4-Bromophenyl)-1,3-thiazol-2-yl]-4-(chloromethyl)-1,3-oxazolidin-2-one | 12 mg, 14% | BrC1=CC=C(C=C1)C=1N=C(SC1)N1C(OC[C@H]1CCl)=O | C13H10BrClN2O2S
